US07897609B2
A suspension of 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol (1.6 g, 4.06 mmol), (4-aminomethylphenyl)boronic acid hydrochloride (0.913 g, 4.87 mmol), potassium carbonate (2.5 g, 18 mmol), dichlorobis(triphenylphosphine)palladium(II)(0.028 g, 0.041 mmol), DME (15 mL), and water (7 mL) was stirred under a nitrogen atmosphere and then heated at 110° C. for 18 hours and allowed to cool to room temperature. An analysis by LC/MS indicated the reaction was incomplete, and additional dichlorobis(triphenylphosphine)palladium(II)(0.050 g) was added. Heating was continued for another six hours, but the reaction did not progress. Additional (4-aminomethylphenyl)boronic acid hydrochloride (0.400 g), potassium carbonate (0.500 g) and dichlorobis(triphenylphosphine)palladium(II)(0.050 g) were added. The reaction was heated at 110° C. for six hours, allowed to cool to room temperature, and concentrated under reduced pressure. Chromatographic purification was carried out as described in Examples 351-365 to provide 1.13 g of 1-[4-amino-7-[4-(aminomethyl)phenyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol as a yellow solid.

reactant | 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | 4.06 mmol, 1.6 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)Br | C16H20BrN5O2
reactant | (4-aminomethylphenyl)boronic acid hydrochloride | 4.87 mmol, 0.913 g | Cl.NCC1=CC=C(C=C1)B(O)O
reactant | potassium carbonate | 18 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | DME | 15 mL | COCCOC | C4H10O2
reactant | (4-aminomethylphenyl)boronic acid hydrochloride | 0.400 g | Cl.NCC1=CC=C(C=C1)B(O)O
reactant | potassium carbonate | 0.500 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.041 mmol, 0.028 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.050 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.050 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 7 mL | O | H2O
product | 1-[4-amino-7-[4-(aminomethyl)phenyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | 1.13 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)C2=CC=C(C=C2)CN | C23H28N6O2
